US05334716
To a solution of ethyl 4-[1-[3-[(1-benzyloxycarbonylethyl)amino]benzoyl]indolizin-3-yl]butyrate (0.20 g) in ethanol (10 ml) was added 10% palladium on carbon (0.1 g). The mixture was stirred under hydrogen atmosphere at room temperature for 2 hours. Removal of catalyst and evaporation of solvent gave ethyl 4-[1-[3-(1-carboxyethylamino)benzoyl]indolizin-3-yl]butyrate (0.15 g) as yellow powder.

reactant | ethyl 4-[1-[3-[(1-benzyloxycarbonylethyl)amino]benzoyl]indolizin-3-yl]butyrate | 0.20 g | C(C1=CC=CC=C1)OC(=O)C(C)NC=1C=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=CC1 | C31H32N2O5
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | ethyl 4-[1-[3-(1-carboxyethylamino)benzoyl]indolizin-3-yl]butyrate | 0.15 g | C(=O)(O)C(C)NC=1C=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=CC1 | C24H26N2O5
